US07419984B2
To a stirred mixture of ethyl malonate sodium salt (3.8 g, 24.7 mmol) and magnesium sulfate (3.2 g, 26.3 mmol) in acetonitrile (60 ml) was added triethylamine (4.7 ml, 33.5 mmol) under an argon atmosphere. After stirring for 2 hours, the solution containing (5-chloro-2-methoxy-phenyl)-imidazol-1-yl-methanone was added. After stirring at 80° C. for 2 hours, magnesium chloride (2.5 g, 26.3 mmol) was added and the mixture was stirred for 16 hours. After cooling to 10° C., concentrated hydrochloric acid (5 ml) was added and the mixture was stirred for 30 minutes. The layers were separated and the aqueous layer was extracted with ethyl acetate (3×60 ml). The combined organic layers were dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:4 followed by 1:3) to provide 3-(5-chloro-2-methoxy-phenyl)-3-oxopropionic acid ethyl ester (2.3 g, 76% yield) as an oil. 1H NMR (CDCl3) δ 1.23 (t, 3H, J=8.7 Hz CH3), 3.89 (s, 3H, CH3), 3.94 (s, 2H, CH2), 4.17 (q, 2H, CH2), 6.91 (d, 1H, J=8.6 Hz, Ar), 7.45 (dd, 1H, J=8.8 Hz, J=2.6 Hz, Ar), 7.85 (d, 1H, J=2.6 Hz, Ar).

reactant | ethyl malonate sodium salt | 24.7 mmol, 3.8 g | [Na+].C(CC(=O)[O-])(=O)OCC
reactant | magnesium sulfate | 26.3 mmol, 3.2 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | triethylamine | 33.5 mmol, 4.7 ml | C(C)N(CC)CC | C6H15N
reactant | (5-chloro-2-methoxy-phenyl)-imidazol-1-yl-methanone | ClC=1C=CC(=C(C1)C(=O)N1C=NC=C1)OC | C11H9ClN2O2
reactant | magnesium chloride | 26.3 mmol, 2.5 g | [Cl-].[Mg+2].[Cl-]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 3-(5-chloro-2-methoxy-phenyl)-3-oxopropionic acid ethyl ester | 2.3 g, 76% yield | C(C)OC(CC(=O)C1=C(C=CC(=C1)Cl)OC)=O | C12H13ClO4
